US03998958
The hydrochloride salt of 2-imino-1-methylpyrrolidine is converted to the free base (4.9 g.; 0.05 mole) in benzene in the usual manner. Then 9.9 g. (0.05 mole) of m-bromophenylisocyanate [made according to the method of K. Inukai and Y. Maki, Kogyo Kagaku Zasshi, 70 (4), 491-4 (1967)] dissolved in anhydrous benzene is added. The reaction mixture is stirred at room temperature for 11/2 hours and the solvent then evaporated in vacuo to give a solid redisue of 1-(3-bromophenyl)-3 -(1-methyl-2-pyrrolidylidene)urea. Recrystallizations from ethyl acetate yields the pure product, m.p. = 138°-149° C.

reactant | 2-imino-1-methylpyrrolidine | N=C1N(CCC1)C | C5H10N2
reactant | m-bromophenylisocyanate | 0.05 mole | BrC=1C=C(C=CC1)N=C=O | C7H4BrNO
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1-(3-bromophenyl)-3 -(1-methyl-2-pyrrolidylidene)urea | BrC=1C=C(C=CC1)NC(=O)N=C1N(CCC1)C | C12H14BrN3O
